US07598423B2
Synthesis is of 1-[3-chloro-2-hydroxy-4-(3-iodo-benzyloxy)-phenyl]-ethanone
Add triphenylphosphine (13.6 g, 51.7 mmol) and DIAD (10.5 g, 51.7 mmol) to a solution of (3-iodo-phenyl)-methanol (11.0 g, 47.0 mmol) and 1-(3-Chloro-2,4-dihydroxy-phenyl)-ethanone (8.77 g, 47.0 mmol) in dichloromethane:tetrahydrofuran (250 ml:250 ml) and stir. After 18 hours, concentrate the reaction, and load directly onto silica. Purify the residue by flash chromatography eluting with acetone:hexanes to yield the title product as a white solid (12.2 g, 64%): 1H NMR (DMSO-d6) δ 2.62 (s, 3H), 5.34 (s, 2H), 6.88 (d, 1H), 7.23 (t, 1H), 7.48 (d, 1H), 7.72 (d, 1H), 7.87 (s, 1H), 7.96 (d, 1H), 13.14 (s, 1H).

reactant | triphenylphosphine | 51.7 mmol, 13.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 51.7 mmol, 10.5 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (3-iodo-phenyl)-methanol | 47.0 mmol, 11.0 g | IC=1C=C(C=CC1)CO | C7H7IO
reactant | 1-(3-Chloro-2,4-dihydroxy-phenyl)-ethanone | 47.0 mmol, 8.77 g | ClC=1C(=C(C=CC1O)C(C)=O)O | C8H7ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-[3-chloro-2-hydroxy-4-(3-iodo-benzyloxy)-phenyl]-ethanone | 12.2 g, 64% | ClC=1C(=C(C=CC1OCC1=CC(=CC=C1)I)C(C)=O)O | C15H12ClIO3
